### ISSUE TITLE
bv_decide does not normalize bitvector widths

### ISSUE THREAD

**Issue by bollu** [leanprover/lean4#5575]
Consider the MWE:

```lean
import Lean

/-- Succeeds. -/
theorem success (x : BitVec 64) (y : BitVec 64) (hxy : x.ult y) (hyx : y.ult x) : x = y := by
  bv_decide

/-- Fails. -/
theorem failure (x : BitVec (8 * 8)) (y : BitVec 64) (hxy : x.ult y) (hyx : y.ult x) : x = y := by
  /-
  None of the hypotheses are in the supported BitVec fragment.
  There are two potential fixes for this:
  1. If you are using custom BitVec constructs simplify them to built-in ones.
  2. If your problem is using only built-in ones it might currently be out of reach.
     Consider expressing it in terms of different operations that are better supported.
  -/
  bv_decide
```

Changing the type of `(x : BitVec (8 * 8))`  to `(x : BitVec 64)` allows `bv_decide` to see that the values are indeed equivalent. Intuitively, one might expect `bv_decide` to index bitvectors upto defeq of their widths, since those are the equalities that Lean itself allows.

It would be nice if `bv_decide` ran normalizations on the width, so that cases like these are automatically proven. It may need to be a somewhat carefully engineered normalization, that does not spend too long evaluating / unfolding, but it should probably perform constant folding and rewrite upto associativity/commutativity.

A larger issue with this as the MWE was discovered by @pennyannn, and was reduced by @alexkeizer . 

CC @hargoniX

**Comment by hargoniX** [comment]
Given that `bv_decide` is only supposed to work on fixed width things anyways, why would there need to be normalization up to associativity and commutativity? Just running the equivalent of `simp only [seval] at <BitVec fvars>` should be enough right?

**Comment by Kha** [comment]
Closing as everyone seems to agree this is as designed

**Comment by alexkeizer** [comment]
I'm not sure I stand behind with that conclusion: I read @hargoniX comment as "it should be enough to have `bv_decide` do constant folding in the normalization pass", which I agree with, rather than as "the current status-quo is fine, seeing as it should be enough to rely on the user to do constant folding via `simp only [seval] at ...`". 

It'd be nice for `bv_decide` to do this automatically!
